US09056859B2
Step F: tert-butyl (±)5-[(2R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]-2,5-diazabicyclo[4.1.0]heptane-2-carboxylate
In a microwave vial charged with stirring bar, tert-butyl (±)-2,5-diazabicyclo[4.1.0]heptane-2-carboxylate (341 mg, 1.72 mmol) was dissolved in EtOH (20 mL). 4-methyl-5-[(2R)-oxiran-2-yl]-2-benzofuran-1(3H)-one (654 mg, 3.44 mmol) was added. Then mixture was sealed and put on microwave reactor. It was heated up to 145° C. and was stir at 145° C. for 60 minutes. After cooling down to room temperature, solution was transferred to a round bottom flask and was concentrated on rotavapor to give crude product, which was purified by ISCO (80 gram silica gel column, eluted by 0-10% MeOH/DCM gradient). Removing solvent gave the title compound. LC/MS: (M+1)+=389.14;

reactant | tert-butyl (±)-2,5-diazabicyclo[4.1.0]heptane-2-carboxylate | 1.72 mmol, 341 mg | C12N(CCNC2C1)C(=O)OC(C)(C)C | C10H18N2O2
reactant | 4-methyl-5-[(2R)-oxiran-2-yl]-2-benzofuran-1(3H)-one | 3.44 mmol, 654 mg | CC1=C(C=CC=2C(OCC21)=O)[C@H]2OC2 | C11H10O3
solvent | EtOH | 20 mL | CCO | C2H6O
product | tert-butyl (±)5-[(2R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]-2,5-diazabicyclo[4.1.0]heptane-2-carboxylate | O[C@@H](CN1CCN(C2CC12)C(=O)OC(C)(C)C)C1=C(C2=C(C(OC2)=O)C=C1)C | C21H28N2O5
